US09108966B2
To a solution of (2S,5R)-6-(benzyloxy)-2-(5-(1-methylpiperidin-4-yl)-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (198 mg, 0.50 mmol) in THF (20 mL) was added 10% Pd/C (200 mg). The mixture was stirred under H2 atmosphere at rt for 3 hrs. The reaction mixture was filtered and concentrated to afford (2S,5R)-6-hydroxy-2-(5-(1-methylpiperidin-4-yl)-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (151 mg, 97%), which was used directly in the next step. ESI-MS (EI+, m/z): 308.1 [M+H]+.

reactant | (2S,5R)-6-(benzyloxy)-2-(5-(1-methylpiperidin-4-yl)-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 0.50 mmol, 198 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2OC(=NN2)C2CCN(CC2)C | C21H27N5O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (2S,5R)-6-hydroxy-2-(5-(1-methylpiperidin-4-yl)-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 151 mg, 97% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2OC(=NN2)C2CCN(CC2)C | C14H21N5O3
